US04562253
7-Amino-3-methyl-3-cephem-4-carboxylic acid (7-ADCA)
8.7 g of 7-chloroacetylamino-3-methyl-3-cephem-4-carboxylic acid are suspended in a 100 ml of methylene dichloride and 7.4 ml of trimethylchlorosilane are added. Dry ammonia gas is then introduced until the temperature which has arisen begins to sink. After refluxing for a short time and cooling to -14°, 15.8 ml of N-ethyl-N-hexadecylaniline are added. 8 g of phosphorus pentachloride are then added in 3 portions so that the temperature does not rise above -10°. The reaction mixture is stirred for a further 30 minutes at -12° to -10° and then poured into 150 ml of methanol, pre-cooled to -14°. The mixture is then mixed with 150 ml of ice water. After strong stirring for a short time, the phases are separated. The aqueous phase is washed with methylene dichloride and the pH is adjusted to 3.8 with ammonia solution. The colourless precipitate is filtered off, washed each time with 30 ml of water and acetone and dried in vacuo at 50°. The title compound (5.85 g; 91%) results as a colourless powder in pure form. The N-ethyl-N-hexadecylaniline base can be regenerated in the same manner as described in Example 1 for N-methyl-N-dodecylaniline.

reactant | 7-chloroacetylamino-3-methyl-3-cephem-4-carboxylic acid | 8.7 g | ClCC(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C10H11ClN2O4S
reactant | trimethylchlorosilane | 7.4 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | ammonia | N | H3N
reactant | N-ethyl-N-hexadecylaniline | 15.8 ml | C(C)N(C1=CC=CC=C1)CCCCCCCCCCCCCCCC | C24H43N
reactant | phosphorus pentachloride | 8 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | methanol | 150 ml | CO | CH4O
solvent | methylene dichloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 7-Amino-3-methyl-3-cephem-4-carboxylic acid | 5.85 g, 91% | NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C8H10N2O3S
